US04713387
In 3 ml of ethanol was dissolved 310 mg of potassium hydroxide, and 0.37 ml of mercaptoethanol was added to the resulting solution. To this solution was dropwise added the N,N-dimethylformamide solution obtained in (1) above with ice-cooling, and the resulting mixture was subjected to reaction at room temperature for 30 minutes. Subsequently, 30 ml of ethyl acetate and 20 ml of water were added to the reaction mixture, and the organic layer was separated, washed with three 20-ml portions of water, thereafter washed with 20 ml of a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 340 mg (yield 89.5%) of colorless crystals of (E)-2-[3-[4-(pyridin-3-ylmethyl)phenyl]allylthio]ethanol having a melting point of 73°-74° C.

reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | (E)-2-[3-[4-(pyridin-3-ylmethyl)phenyl]allylthio]ethanol | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C/CSCCO | C17H19NOS
reactant | water | 20 ml | O | H2O
product | 2-[4-(Pyridin-3-ylmethyl)phenyloxy]ethanol | 340 mg, yield 89.5% | N1=CC(=CC=C1)CC1=CC=C(C=C1)OCCO | C14H15NO2
